US07273865B2
N-[7-Methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-2-morpholin-4-yl-isonicotinamide
From 2-(4-morpholinyl)-4-pyridinecarboxylic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-(tetrahydro-pyran-4-yl)thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 456 (M+H+, 100).

reactant | 2-(4-morpholinyl)-4-pyridinecarboxylic acid | N1(CCOCC1)C1=NC=CC(=C1)C(=O)O | C10H12N2O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-(tetrahydro-pyran-4-yl)thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)N | C12H15N3O2S
solvent | THF | C1CCOC1 | C4H8O
product | N-[7-Methoxy-4-(tetrahydro-pyran-4-yl)-thiazolo[5,4-c]pyridin-2-yl]-2-morpholin-4-yl-isonicotinamide | COC=1C2=C(C(=NC1)C1CCOCC1)SC(=N2)NC(C2=CC(=NC=C2)N2CCOCC2)=O | C22H25N5O4S
